US08486953B2
4-[4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenylamino]-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester
A solution of 4-chloro-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester (prepared according to WO2007/109279, 0.141 g, 0.43 mmol), 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline (0.092 g, 0.44 mmol) and para-toluene sulfonic acid (0.08 g, 0.04 mmol) in 1,4-dioxane (2 mL) was purged with nitrogen and then heated at 120° C. for 5 hours. The reaction mixture was diluted with EtOAc, washed with 10% aqueous K2CO3 and brine. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography (100% iso-hexane→66% iso-hexane/EtOAc→100% EtOAc) followed by trituration with MeOH afforded the title compound as white solid (0.042 g, 20%).

reactant | 4-chloro-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.43 mmol, 0.141 g | C(C)(C)(C)OC(=O)N1CC2=C(C3=C(N=CN=C3Cl)S2)CC1 | C14H16ClN3O2S
reactant | 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 0.44 mmol, 0.092 g | FC1=CC(=C(N)C=C1)OC1CCOCC1 | C11H14FNO2
reactant | para-toluene sulfonic acid | 0.04 mmol, 0.08 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenylamino]-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.042 g, 20% | C(C)(C)(C)OC(=O)N1CC2=C(C3=C(N=CN=C3NC3=C(C=C(C=C3)F)OC3CCOCC3)S2)CC1 | C25H29FN4O4S
